US07666864B2
3-[2-Fluoro-4′-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-yl)-biphenyl-4-yl]-5-hydroxymethyl-oxazolidin-2-one
3-[2-Fluoro-4′-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-yl)-biphenyl-4-yl]-5-hydroxymethyl-oxazolidin-2-one was synthesized according to the scheme shown in FIG. 7. To a dry round bottom flask was added 5-(tert-Butyl-dimethyl-silanyloxymethyl)-3-[3-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-2-one (148 mg, 0.33 mmol), 2-(4-Bromo-phenyl)-2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazole (˜97 mg, 0.3 mmol, impure), Ph(PPh3)4 (60 mg, 0.06 mmol) and K2CO3 (85 mg, 0.6 mmol). The flask was flushed with nitrogen and was added 4 mL degassed DMF/H2O (10/1, v/v). The resulting mixture was stirred at 80° C. for 2 hours before it was cooled down and partitioned in 60 mL EtOAc/60 mL water. The organic layer was washed with brine and dried over Na2SO4. Column chromatography (CH2Cl2/MeOH, v/v, 20:1 to 10:1) gave impure TBS-protected titled compound (˜22 mg) as yellow solid. This intermediate was dissolved in 2 mL THF and cooled to 0° C. TBAF (0.15 mL, 1M in THF) was added dropwise via syringe. The resulting mixture was warmed up and stirred for 2 hours at root temperature. It was then quenched with 0.4 mL saturated aqueous NH4Cl. After removing all the solvents in vacuo, the product (4 mg) was obtained as yellow solid through preparative TLC(CH2Cl2/MeOH, v/v, 10:1). ESI MS m/z 455 (M+H). 1H NMR (400 MHz, CD3OD) δ7.61 (s, 1H), 7.48-7.52 (m, 3H), 7.41-7.46 (m, 2H), 7.34-7.40 (m, 1H), 7.24-7.27 (m, 1H), 4.66-4.74 (m, 1H), 4.40 (s, 2H), 4.03 (t, J=8.8 Hz, 1H), 3.96 (dd, J=8.8, 6.8 Hz, 1H), 3.83 (dd, J=12.8, 3.6 Hz, 1H), 3.65 (dd, J=12.8, 3.6 Hz, 1H), 1.96 (s, 3H).

reactant | 5-(tert-Butyl-dimethyl-silanyloxymethyl)-3-[3-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-2-one | 0.33 mmol, 148 mg | C(C)(C)(C)[SiH2]OC(C1CN(C(O1)=O)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)(C)C | C22H35BFNO5Si
reactant | 2-(4-Bromo-phenyl)-2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazole | 0.3 mmol, ˜97 mg | BrC1=CC=C(C=C1)C1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C | C12H10BrN3O3
reactant | K2CO3 | 0.6 mmol, 85 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | TBAF | 1M, 0.15 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-[2-Fluoro-4′-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-yl)-biphenyl-4-yl]-5-hydroxymethyl-oxazolidin-2-one | ˜22 mg | FC1=C(C=CC(=C1)N1C(OC(C1)CO)=O)C1=CC=C(C=C1)C1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C | C22H19FN4O6
